PRE-PIN-DIODE TWO-DIMENSIONAL PIN-DIODE CIRCUIT

VIN 1 0 0.0v (PWL 0ns 0.8v 1ns -50.0v)
L1  1 2 0.5uH
VD  2 3 0.0v
D1  3 0 M_PIN AREA=200 save
VRC 2 4 0.0v
R1  4 5 100
C1  5 0 1.0nF

.MODEL M_PIN NUMD LEVEL=2
+ options defw=1000u
+ x.mesh n=1 l=0.0
+ x.mesh n=2 l=0.2
+ x.mesh n=4 l=0.4
+ x.mesh n=8 l=0.6
+ x.mesh n=13 l=1.0
+
+ y.mesh n=1 l=0.0
+ y.mesh n=9 l=4.0
+ y.mesh n=24 l=10.0
+ y.mesh n=29 l=15.0
+ y.mesh n=34 l=20.0
+
+ domain num=1 material=1
+ material num=1 silicon tn=20ns tp=20ns
+
+ electrode num=1 x.l=0.6 x.h=1.0 y.h=0.0
+ electrode num=2 y.l=20.0
+
+ doping gauss p.type conc=1.0e20 char.len=1.076 x.l=0.75 x.h=1.1 y.h=0.0
+ + lat.rotate ratio=0.1
+ doping unif  n.type conc=1.0e14
+ doping gauss n.type conc=1.0e20 char.len=1.614 x.l=-0.1 x.h=1.1 y.l=20.0
+
+ models bgn srh auger conctau concmob fieldmob
+ output rootfile="Pre-Pin-Diode-"

.OPTION ACCT BYPASS=1
* .TRAN 1NS 100NS
* .PRINT TRAN v(3) I(VIN)
.op

.END
